US09302989B2
N-(7-oxo-7-{[(3R)-tetrahydrofuran-3-ylmethyl]amino}heptyl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting (R)-(tetrahydrofuran-3-yl)methanamine for 3-phenylpropan-1-amine and 7-(isoindoline-2-carboxamido)heptanoic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.85 (t, J=5.76 Hz, 1H) 7.20-7.37 (m, 4H) 6.26 (t, J=5.59 Hz, 1H) 4.57 (s, 4H) 3.49-3.79 (m, 3H) 3.35 (dd, J=8.48, 5.43 Hz, 1H) 2.94-3.15 (m, 4H) 2.18-2.38 (m, 1H) 2.05 (t, J=7.29 Hz, 2H) 1.79-1.98 (m, 1H) 1.35-1.60 (m, 7H) 1.17-1.35 (m, 2H); MS (ESI(+)) m/e 374 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 7-(isoindoline-2-carboxamido)heptanoic acid | C1N(CC2=CC=CC=C12)C(=O)NCCCCCCC(=O)O | C16H22N2O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-(7-oxo-7-{[(3R)-tetrahydrofuran-3-ylmethyl]amino}heptyl)-1,3-dihydro-2H-isoindole-2-carboxamide | O=C(CCCCCCNC(=O)N1CC2=CC=CC=C2C1)NC[C@@H]1COCC1 | C21H31N3O3
